US08604074B2
1-(3,6-dibromo-9H-carbazol-9-yl)-3-(phenylthio)propan-2-ol
Benzenethiol (30 μl, 0.29 mmol) was added to a solution of 3,6-dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole (101.6 mg, 0.27 mmol) in 5.0 ml MeOH at r.t. The reaction mixture was heated to 80° C. and stirred overnight at the same temperature. The reaction was monitored by 1 c/ms for the consumption of SM. The reaction was cooled, diluted with ethyl acetate and washed with water and brine. The organic layer was dried over Na2SO4, filtered and condensed.

reactant | Benzenethiol | 0.29 mmol, 30 μl | C1(=CC=CC=C1)S | C6H6S
reactant | 3,6-dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole | 0.27 mmol, 101.6 mg | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1OC1 | C15H11Br2NO
solvent | MeOH | 5.0 ml | CO | CH4O
product | 1-(3,6-dibromo-9H-carbazol-9-yl)-3-(phenylthio)propan-2-ol | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CSC1=CC=CC=C1)O | C21H17Br2NOS
